US05081246
1-Benzyloxycarbonyl-4-(N-tert-butoxycarbonyltyrosyl)homopiperazine
15.29 g of N-tert-butoxycarbonyltyrosine and 12.73 g of N-benzyloxycarbonylhomopiperazine were dissolved in 280 ml of tetrahydrofuran, to the solution were added 8.09 g of 1-hydroxybenzotriazole hydrate and 11.77 g of DCC at a room temperature with stirring, and the reaction mixture was stirred for 16 hours. The reaction mixture was evaporated to remove the solvent under a reduced pressure, to the residue was added benzene, and insoluble matter was filtered by suction and washed with benzene. The benzene layers were combined and evaporated off under a reduced pressure. The resulting residue was applied to a silica gel column and eluted with chloroform/methanol (100:1), to obtain 26.42 g of the title compound in colorless amorphous form.

reactant | N-tert-butoxycarbonyltyrosine | 15.29 g | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C14H19NO5
reactant | N-benzyloxycarbonylhomopiperazine | 12.73 g | C(C1=CC=CC=C1)OC(=O)N1CCNCCC1 | C13H18N2O2
reactant | 1-hydroxybenzotriazole hydrate | 8.09 g | O.ON1N=NC2=C1C=CC=C2
reactant | DCC | 11.77 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | tetrahydrofuran | 280 ml | O1CCCC1 | C4H8O
product | 1-Benzyloxycarbonyl-4-(N-tert-butoxycarbonyltyrosyl)homopiperazine | 26.42 g | C(C1=CC=CC=C1)OC(=O)N1CCN(CCC1)C([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)O)=O | C27H35N3O6
